US06303612B1
2-(4-Methoxyphenylsulfanyl)benzyl alcohol
A mixture of a 60% solution of Na bis-(2-methoxyethoxy)aluminum hydride (85.0 g) and toluene (120 ml) was added dropwise during 1 h to a stirred suspension of 2-(4-methoxyphenylsulfanyl)benzoic acid (33.4 g, 0.128 mol) in toluene (270 ml) under nitrogen atmosphere. Temperature of the reaction mixture was allowed to reach 50° C., then the mixture was cooled down to 20° C. and the mixture was stirred for 5 h. Then a 10% solution of sodium hydroxide (50 ml) was added, the toluene layer was separated and successively washed with a 5% solution of sulfuric acid (50 ml) and water (2×50 ml). An oily residue after evaporation of toluene (31.2 g, 99.2%) was used for the next step without further purification.

reactant | 2-(4-methoxyphenylsulfanyl)benzoic acid | 0.128 mol, 33.4 g | COC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methoxyphenylsulfanyl)benzyl alcohol | COC1=CC=C(C=C1)SC1=C(CO)C=CC=C1 | C14H14O2S
